US07683060B2
Step 1. methyl 4-acetyl-2-fluorobenzoate
A mixture of methyl 4-bromo-2-fluorobenzoate (7.0 g, 0.030 mol), 1-(ethenyloxy)butane (13 mL, 0.099 mol), palladium acetate (200 mg, 0.0009 mol), 1,3-bis(diphenylphosphino)propane (700 mg, 0.002 mol), and potassium carbonate (4.29 g, 0.0310 mol) in DMF (50 mL) and water (3 mL) was heated at 80° C. with stirring for 24 h. After cooling to RT, to the solution was added 1N HCl solution (31 ml). The mixture was stirred at RT for 1 h, and then extracted with ethyl ether. The combined extracts were washed with brine; dried over Na2SO4, filtered concentrated. The residue was flash chromatographed on a silica gel column to give the desired product (1.64 g).

reactant | methyl 4-bromo-2-fluorobenzoate | 0.030 mol, 7.0 g | BrC1=CC(=C(C(=O)OC)C=C1)F | C8H6BrFO2
reactant | 1-(ethenyloxy)butane | 0.099 mol, 13 mL | C(=C)OCCCC | C6H12O
reactant | 1,3-bis(diphenylphosphino)propane | 0.002 mol, 700 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | potassium carbonate | 0.0310 mol, 4.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N, 31 ml | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 3 mL | O | H2O
catalyst | palladium acetate | 0.0009 mol, 200 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-acetyl-2-fluorobenzoate | 1.64 g | C(C)(=O)C1=CC(=C(C(=O)OC)C=C1)F | C10H9FO3
